US07691882B2
2-Amino-6-hydroxymethyl-pyridine-3-carbaldehyde
To a mixture of 2-amino-6-methoxymethyl-pyridine-3-carbaldehyde (57 mg, 0.34 mmol) described in Manufacturing Example 26-1-6 and dichloromethane (2 mL) was added boron tribromide (1.0 mL, 1 M dichloromethane solution, 1.0 mmol) at −78° C., which was stirred for 1 hour at 0° C. The reaction mixture was cooled to −78° C., methanol was added at the same temperature, and the excess reagent was quenched. The reaction mixture was gradually allowed to room temperature and was neutralized by adding an ammonium aqueous solution (28%). Water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=4:1) to obtain the title compound (18 mg, 34%).

reactant | 2-amino-6-methoxymethyl-pyridine-3-carbaldehyde | 0.34 mmol, 57 mg | NC1=NC(=CC=C1C=O)COC | C8H10N2O2
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
reactant | boron tribromide | 1.0 mmol, 1 M, 1.0 mL | B(Br)(Br)Br | BBr3
solvent | methanol | CO | CH4O
product | 2-Amino-6-hydroxymethyl-pyridine-3-carbaldehyde | 18 mg, 34% | NC1=NC(=CC=C1C=O)CO | C7H8N2O2
